US03998954
A mixture of tetrahydrohomophthalic acid (46.0 g., 0.25 mole) and m-chloroaniline (31.8 g., 0.25 mole) is heated by an oil bath until molten for two hours. When removed from the oil bath, the reaction mixture solidifies and is recrystallized twice from ethanol/ethyl acetate, giving 2-(m-chlorophenyl)-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione.

reactant | tetrahydrohomophthalic acid | 0.25 mole, 46.0 g | C(CC1C(C(=O)O)CCC=C1)(=O)O | C9H12O4
reactant | m-chloroaniline | 0.25 mole, 31.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 2-(m-chlorophenyl)-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione | ClC=1C=C(C=CC1)N1C(C=2CCCCC2CC1=O)=O | C15H14ClNO2
